US08957103B2
Tert.-butyl-3-bromopropylcarbamate
A modified procedure of Wescott et al. (J. Org. Chem. 2003, 68(26): 10058-10066) was used to prepare the title compound. A solution of NaHCO3 (24.4 mmole; 2.0 g) in 80 ml water, di-tert.-butyldicarbonate (24.4 mmole; 5.33 g) and KBr (48.8 mmole; 5.8 g) were added to a stirred suspension of 3-bromopropylammoniumbromide (24.4 mmole; 5.0 g) in 100 ml chloroform. The reaction was refluxed for 5 hours. After cooling to ambient temperature, the organic layer was separated, the aqueous layer extracted with chloroform and the combined organic layers dried with MgSO4, filtered, concentrated and purified by column chromatography. The title compound was obtained as a colorless oil (19.46 mmole; 80%). 1H NMR (300 MHz, CDCl3) 4.73 (bs, 1H; NH); 3.41 (t; 3J=6.5 Hz; 2H; CH2Br); 3.24 (m; 2H; CH2N); 2.02 (quint; 3J=6.5 Hz; 2H; CH2CH2CH2); 1.41 (s; 9H; C(CH3)3).

reactant | NaHCO3 | 24.4 mmole, 2.0 g | C(=O)(O)[O-].[Na+]
reactant | di-tert.-butyldicarbonate | 24.4 mmole, 5.33 g | C(C)(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
reactant | KBr | 48.8 mmole, 5.8 g | [K+].[Br-]
reactant | 3-bromopropylammoniumbromide | 24.4 mmole, 5.0 g | [Br-].BrCCC[NH3+]
solvent | water | 80 ml | O | H2O
solvent | chloroform | 100 ml | C(Cl)(Cl)Cl | CHCl3
product | Tert.-butyl-3-bromopropylcarbamate | C(C)(C)(C)OC(NCCCBr)=O | C8H16BrNO2
